US07241791B2
Step 2: 4-(2-cyclopentyl-7-fluoro-2H-indazol-3-yl)phenol
Prepared according to Method D step C from 2-cyclopentyl-7-fluoro-3-(4-methoxyphenyl)-2H-indazole (0.055 g, 0.177 mmol), boron tribromide (0. 70 mL, 0.74 mmol) and 0.3 mL of cyclohexene to give the product (0.03 g) as an amber solid.

reactant | 2-cyclopentyl-7-fluoro-3-(4-methoxyphenyl)-2H-indazole | 0.177 mmol, 0.055 g | C1(CCCC1)N1N=C2C(=CC=CC2=C1C1=CC=C(C=C1)OC)F | C19H19FN2O
reactant | boron tribromide | 0.74 mmol, 70 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.3 mL | C1=CCCCC1 | C6H10
product | 4-(2-cyclopentyl-7-fluoro-2H-indazol-3-yl)phenol | 0.03 g | C1(CCCC1)N1N=C2C(=CC=CC2=C1C1=CC=C(C=C1)O)F | C18H17FN2O
